US05068356
N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-hexadecylsuccinimide
2-Hexadecylsuccinic anhydride (10.5 g, 31.3 mmol) was heated to about 115° C. under a nitrogen atmosphere. To this stirred melt was added, in portions, 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide (9.2 g, 31.3 mmol). Successive additions of hydrazide required raising the melt temperature to facilitate stirring. The final addition of hydrazide was done at a melt temperature of approximately 135° C. After this final portion was blended into the melt, a vacuum was applied and the melt temperature was raised to about 148° C. and maintained at that temperature for 20 minutes. The melt was allowed to cool to approximately 115° C. whereupon the vacuum was released and the clear yellow melt was quickly poured into a container. 19.2 g of a yellow viscous liquid was obtained that solidified to a waxy, translucent white solid upon standing for several days at room temperature. The waxy material was recrystallized from acetone to give a white solid having a melting point of 85° C.

reactant | 2-Hexadecylsuccinic anhydride | 31.3 mmol, 10.5 g | C(CCCCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C20H36O3
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide | 31.3 mmol, 9.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
product | N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-hexadecylsuccinimide | 19.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN1C(C(CC1=O)CCCCCCCCCCCCCCCC)=O | C37H62N2O4
